US05945436
A solution of 3-pyridylacetonitrile (23 g) in tetrahydrofuran (75 ml) was added dropwise to a stirred suspension of sodium amide (8 g) in tetrahydrofuran (175 ml) under a nitrogen atmosphere at 0° C. After complete addition of the solution, the resultant mixture was stirred at 0-10° C. for 1 hour, then cooled to -35° C. and a solution of 2-(bromoethyl)benzene (36 g) in tetrahydrofuran (100 ml) was added dropwise over 30 minutes. The resultant new mixture was stirred between -35° C. to ambient temperature overnight, then quenched with water and neutralized with 10% hydrochloric acid. After the removal of of tetrahydrofuran, the residue was dissolved in methylene chloride and washed with saturated sodium bicarbonate solution. The organic extract was then dried over magnesium sulfate, filtered and evaporated to give an oil. The oil was then distilled to provide 30 g of α-(2-phenylethyl)-3-pyridineacetonitrile, b.p.=170-173° C./0.5 mmHg.

reactant | 3-pyridylacetonitrile | 23 g | N1=CC(=CC=C1)CC#N | C7H6N2
reactant | sodium amide | 8 g | [NH2-].[Na+]
reactant | 2-(bromoethyl)benzene | 36 g | BrCCC1=CC=CC=C1 | C8H9Br
solvent | tetrahydrofuran | 75 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 175 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | α-(2-phenylethyl)-3-pyridineacetonitrile | 30 g | C1(=CC=CC=C1)CCC(C#N)C=1C=NC=CC1 | C15H14N2
